US04510338
4-[1-(2-Trifluoromethylphenyl)-1-hydroxypropyl]-resorcin
To 2-trifluoromethylphenyl-lithium prepared from 18.9 g. of n-butyl-lithium and 65.2 g. of 2-bromobenzotrifluoride in 480 ml. of dry ether, a solution of 8.3 g. of 2',4'-dihydroxy-propiophenone in 85 ml. of dry ether is added dropwise, with stirring at a temperature between 0° C. and -5° C. The reaction mixture is stirred at room temperature for further two hours. After cooling the mixture is poured onto a 10% solution of ammonium chloride in ice water. The phases are separated and the aqueous phase is extracted with ether. The organic phase is washed to neutral with water, dried over anhydrous magnesium sulfate, decolored with activated carbon, filtered, and ether is distilled off under reduced pressure. As a residue 15 g. of an oily product are obtained, which is then chromatographed on a silica gel column by elution with dichloromethane. Dichloromethane is then distilled off under reduced pressure, and the solid residue is crystallized from a mixture of n-hexane and ethyl acetate to yield 6.9 g. of the named compound, melting at 143° to 144° C.

reactant | 2-trifluoromethylphenyl-lithium | FC(C1=C(C=CC=C1)[Li])(F)F
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 2-bromobenzotrifluoride | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | 2',4'-dihydroxy-propiophenone | OC1=C(C=CC(=C1)O)C(CC)=O | C9H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 4-[1-(2-Trifluoromethylphenyl)-1-hydroxypropyl]-resorcin | FC(C1=C(C=CC=C1)C(CC)(O)C1=C(C=C(O)C=C1)O)(F)F | C16H15F3O3
